US07547696B2
a.) 2-Nitro-5-dimethylaminobenzoic acid
The mixture of 5 g of 2-nitro-5-chlorobenzoic acid and 15 mL of 60% aqueous dimethylamine solution is stirred at 100° C. for 6 hours. The reaction mixture is evaporated, the residue dissolved in 15 mL of water. The pH of the mixture is adjusted to 6 with acetic acid. The precipitated yellow crystalline material is filtered off, washed with water and dried, to obtain 3.4 g of the title compound. Mp.: 189° C.

reactant | 2-nitro-5-chlorobenzoic acid | 5 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)Cl | C7H4ClNO4
reactant | dimethylamine | 15 mL | CNC | C2H7N
product | 2-Nitro-5-dimethylaminobenzoic acid | 3.4 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C=C1)N(C)C | C9H10N2O4
